US05567843
About 60 grams (0.3 mole) of the 4-nitro-phenylchloroxime is mixed with 340 milliliters of ethanol, 60 grams (0.39 moles) of 2-amino-4-nitrophenol and 60 milliliters of dimethylformamide. The mixture is heated to reflux for about 6.5 hours, filtered, washed with methanol and air dried. Approximately 55 grams of 2-(p-nitrophenyl)-5-nitrobenzoxazole are obtained.

reactant | ethanol | 340 milliliters | C(C)O | C2H6O
reactant | 2-amino-4-nitrophenol | 0.39 moles, 60 grams | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | dimethylformamide | 60 milliliters | CN(C=O)C | C3H7NO
product | 2-(p-nitrophenyl)-5-nitrobenzoxazole | 55 grams | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
